US06462198B1
Diphenylacetyl-carbamic acid benzyl ester
The title compound, white solid, m.p. 100-101° C. and MS: m/e=345 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl isocyanate and benzyl alcohol.

reactant | diphenylacetyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)C1=CC=CC=C1 | C15H11NO2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | Diphenylacetyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C22H19NO3
